US07432260B2
N-{5-[2-(4-Chloro-phenylamino)-pyrimidin-4-yl]-4-methyl-thiazol-2-yl}-3-morpholin-4-yl-propionamide [35].
By treatment of 3-chloro-N-{5-[2-(4-chloro-phenylamino)-pyrimidin-4-yl]-4-methyl-thiazol-2-yl}-propionamide with morpholine. Anal. RP-HPLC: tR=12.7 min (10-70% MeCN, purity>95%). 1H-NMR (CDCl3) δ: 1.50 (m, 2H, CH2), 2.52 (s, 3H, CH3), 3.05-3.78 (m, 8H, CH2), 3.81 (m, 2H, CH2), 7.12 (d, 1H, J=5.5 Hz, pyrimidinyl-H), 7.30 (d, 2H, J=7.0 Hz, Ph-H), 7.80 (d, 2H, J=7.0 Hz, Ph-H), 8.51 (d, 1H, J=5.0 Hz, pyrimidinyl-H), 9.80 (brs, 1H, NH).

reactant | 3-chloro-N-{5-[2-(4-chloro-phenylamino)-pyrimidin-4-yl]-4-methyl-thiazol-2-yl}-propionamide | ClCCC(=O)NC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC=C(C=C1)Cl | C17H15Cl2N5OS
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | MeCN | CC#N | C2H3N
product | N-{5-[2-(4-Chloro-phenylamino)-pyrimidin-4-yl]-4-methyl-thiazol-2-yl}-3-morpholin-4-yl-propionamide | ClC1=CC=C(C=C1)NC1=NC=CC(=N1)C1=C(N=C(S1)NC(CCN1CCOCC1)=O)C | C21H23ClN6O2S
